2139-04-12 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2139-4-11**] 03:00 PM
   c diff, o&p
 STOOL CULTURE - At [**2139-4-11**] 03:30 PM
   o&p
 BLOOD CULTURED - At [**2139-4-11**] 05:30 PM
   2 sets
 STOOL CULTURE - At [**2139-4-11**] 05:30 PM
   o&p
 EKG - At [**2139-4-11**] 05:45 PM
   Pt. had chole drain placed at bedside with large amount of output.  His
   abdominal pain felt much better, but he continued to spike temps
   despite vanc/zosyn.
   Pt. had episode of chest pain along L rib cage that was reproducible
   with palpation.  Resolved on its own, not pleuritic in nature, received
   aspirin.  CE flat.  EKG unchanged (RBBB)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2139-4-11**] 04:05 AM
   Vancomycin - [**2139-4-11**] 10:03 PM
   Piperacillin/Tazobactam (Zosyn) - [**2139-4-12**] 05:50 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2139-4-11**] 11:39 AM
   Midazolam (Versed) - [**2139-4-11**] 11:40 AM
   Heparin Sodium (Prophylaxis) - [**2139-4-12**] 12:03 AM
   Hydromorphone (Dilaudid) - [**2139-4-12**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2139-4-12**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**41**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 91 (81 - 116) bpm
   BP: 110/51(66) {69/32(41) - 116/62(73)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 95.1 kg
    CVP: 15 (4 - 17)mmHg
   Total In:
                                                                 10,226 mL
                                                                    491 mL
   PO:
                                                                    800 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  5,426 mL
                                                                    291 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                  1,180 mL
   Urine:
                                                                  2,610 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
                                                                  1,150 mL
                                                                    320 mL
   Balance:
                                                                  6,466 mL
                                                                   -689 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Gen:  NAD, somewhat diaphoretic
   Pulm:  CTA anteriorly
   CV: RRR
   Abd:  soft, mild TTP at site of chole drain, draining bilious material
   Peripheral Vascular: pulses dopplerable, marked swelling of BLE,
   diffuse erythema and warmth without focal area
   Skin:  warm, mildly clammy
   Neurologic: alert, oriented, no focal deficits
   Labs / Radiology
   213 K/uL
   11.7 g/dL
   100 mg/dL
   1.2 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   103 mEq/L
   135 mEq/L
   35.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2139-4-11**]  03:41 AM
                             [**2139-4-11**]  02:29 PM
                             [**2139-4-12**]  01:56 AM
   WBC
   6.8
   7.5
   10.6
   Hct
   39.1
   36.3
   35.0
   Plt
   [**Telephone/Fax (3) 11987**]
   Cr
   1.5
   1.4
   1.2
   TropT
   <0.01
   Glucose
   92
   127
   100
   Other labs: PT / PTT / INR:13.3/29.2/1.1, CK / CKMB /
   Troponin-T:56//<0.01, ALT / AST:18/15, Alk Phos / T Bili:49/0.9,
   Differential-Neuts:71.0 %, Band:17.0 %, Lymph:4.0 %, Mono:5.0 %,
   Eos:0.0 %, Lactic Acid:2.5 mmol/L, Albumin:3.3 g/dL, LDH:94 IU/L,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   45M HIV (dx [**2134**], last CD4 212, VL undetectable) on truvada +/- kaletra
   with h/o karposi lymphoma of inguinal LNs w/lymphadema in LE, RPR
   positive s/p penicillin tx [**5-23**], now p/w neutropenic fevers, acute on
   chronic LE edema, abdominal pain and tenderness and elevated t bilis.
   # Sepsis: hypotensive to 80s/50s with neutropenic fever to 102 and
   hypotension. 8% bands in setting of leukopenia. unclear infectious
   etiology, ? cellulitis vs cholangitis vs other abdominal.
    - levophed as needed to sustain MAP > 65
    - aggressive IVF boluses, CVP > 10
    - antibiotics as above
    - cultures pending
    - serial lactates
    - tylenol < 2g to control fevers
   # Abdominal Pain: epigastric pain and tense, diffusely tender abdomen,
   no rebound, +/- guarding, with watery diarrhea nonbloody and with
   elevated t bili and elevated lactate but low alk phos, no
   transaminitis, normal lipase. ct abd with enlarged gallbladder but no
   e/o cholecystitis but mild intrahepatic biliary dilatation, ? AIDS
   cholangiopathy. possibly known complication of truvada with lactic
   acidosis and severe hepatomegaly with steatosis. unlikely pancreatitis
   given normal lipase. could consider cardiac etiology given hypotension
   but normal trops and no significant EKG changes.
    - surgery consulting
    - RUQ U/S
    - vanc/zosyn/clinda
    - serial lactates
    - serial abdominal exams
    - dilaudid for pain, try to monitor exams
    - hep serologies
   - IVF
    - fractionate bili
    - hemolysis labs
    - consider ERCP/MRCP to further evaluate for ?AIDS cholangitis
   # LE Edema: LE edema, unlikely cellulitis, L>R, from feet to groin, CT
   scan showing widespread edema. No subcutaenous air to suggest
   necrotizing fasciatus. No e/o DVT.
    - Vanc/Zosyn
    - Clinda for anaerobe coverage
    - sepsis tx as above
    - f/u surgery recs
   # Neutropenia: WBC 1.0, N:16 Band:8 L:74. etiology unclear at this
   time. h/o lymphoma thought to be in remission.
    - follow diffs, ANCs
   - check CMV, EBV, hep Vs, B-19
    - review medications for potential causes of leukopenia
    - neutropenic precautions
    - discuss w/1' oncologist
   # HIV: dx [**2134**], last CD4 212, VL undetectable
   - HAART restarted per ID recs
   # Anxiety: hold benzos for now in setting of sepsis
   # Herpes: stable, no changes in management
    - consider restarting acyclovir, unclear compliance
   # FEN: IVF as needed, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin
   # Access: CVL, peripherals
   # Communication: Patient
   # Code: Full (discussed with patient by intern)
   # Disposition: ICU pending clinical improvement
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Events notable for cholecystostomy tube placement with resolution of
   abdominal pain, continued fever to 101.  Episode of chest pain with no
   ekg changes, resolved.  Weaning levophed gtt.
   BP 102/50s, P80 Sat 95% on RA.  I/O:24h +6.5  This AM -700.  Chole tube
   drainaged
   Exam notable for >3+ LE edema, erythema, diffuse, unchanged.  Abd soft
   +BS.  L chest wall tenderness.  CTA B/L RRR S1 S2.
   Labs notable for 10.6 <- 7.5 / Hct 35 <- 39 / Plt 213. 17% bands.
   Cr 1.2 <- 1.4, Bicarb 22.
   Vanc trough 9.3
   Meds include: Vanc / Zosyn, truvada, kaletra, PRN dilaudid.
   45M h/o HIV, Kaposi
s sarcoma / lymphoma felt to be in remission with
   ongoing lymphedema, septic shock and pressors d/t cholecystitis, s/p
   perc chole tube.  Improving.
   Agree with plan to continue antibiotics and chole tube drainage,
   continuing on HAART per ID.  Remains on both Vanc / Zosyn for concern
   of celluitis in addition to cholecystitis, reasonable to continue for
   now awaiting final cx data.  Weaning pressors, consider further fluid
   bolus PRN.  Remainder of plan as above.
   Pt is critically ill: CC time  35 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2139-4-12**] 16:04 ------